US09169259B2
To a mixture of 3-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)phenol (50 mg, 0.129 mmol) and K2CO3 (36 mg, 0.258 mmol) in DMF (5 mL) was added tert-butyl 4-(2-(methylsulfonyloxy)ethyl)piperazine-1-carboxylate (48 mg, 0.155 mmol). The mixture was heated at 50° C. for 16 h. After cooling, the mixture was poured into water and extracted with EtOAc (3×10 mL). The combined organic layers were washed with brine and dried over MgSO4. After filtration and concentration, the residue was washed by petroleum ether to give tert-butyl-4-(2-(3-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)phenoxy)ethyl)piperazine-1-carboxylate (25 mg, 33%) as crude oil. LC-MS: 599.4 [M+H]+, tR=1.53 min.

reactant | 3-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)phenol | 0.129 mmol, 50 mg | CC1N(CCC1)C1=CC=CC(=N1)NC=1C=2N(N=C(C1)C=1C=C(C=CC1)O)C=CN2 | C22H22N6O
reactant | K2CO3 | 0.258 mmol, 36 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | tert-butyl 4-(2-(methylsulfonyloxy)ethyl)piperazine-1-carboxylate | 0.155 mmol, 48 mg | CS(=O)(=O)OCCN1CCN(CC1)C(=O)OC(C)(C)C | C12H24N2O5S
reactant | water | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | tert-butyl-4-(2-(3-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)phenoxy)ethyl)piperazine-1-carboxylate | 25 mg, 33% | C(C)(C)(C)OC(=O)N1CCN(CC1)CCOC1=CC(=CC=C1)C=1C=C(C=2N(N1)C=CN2)NC2=NC(=CC=C2)N2C(CCC2)C | C33H42N8O3
